US07560586B2
Preparation of 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-butyric acid hydrochloride salt
To a solution of (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-acetic acid (70 mg, 0.12 mmol) in dry THF (50 mL) was added lithium diisopropylamide (0.17 mL, 0.35 mmol) dropwise with cooling to −78° C. After the reaction mixture was stirred at −78° C. for an additional 1 h, iodoethane (40 μl) was added. The reaction was warmed to RT over 4 h followed by quenching with saturated ammonium chloride (10 mL). Solvent was removed and the residue was partitioned between water and ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, and concentrated under vacuum. The residue was purified by silica gel column chromatograph (EtOAc:Hexane/20:80) to give the title compound as an oil (37 mg, 50%). MS m/e 609.2 (M+H)+.

reactant | (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-acetic acid | 0.12 mmol, 70 mg | ClC1=C(CN(CCCOC=2C=C(C=CC2)CC(=O)O)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C33H31ClF3NO3
reactant | lithium diisopropylamide | 0.35 mmol, 0.17 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | iodoethane | 40 μl | ICC | C2H5I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-butyric acid hydrochloride salt | 37 mg, 50% | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)C(C(=O)O)CC)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C35H35ClF3NO3.ClH/c1-2-30(34(41)42)27-16-9-18-29(22-27)43-21-11-20-40(23-28-17-10-19-32(33(28)36)35(37,38)39)24-31(25-12-5-3-6-13-25)26-14-7-4-8-15-26;/h3-10,12-19,22,30-31H,2,11,20-21,23-24H2,1H3,(H,41,42);1H
